US07608563B2
In N,N-dimethylformamide(50 mL) was dissolved 4.96 g (36.5 mmol) of 2-hydroxy-3-methylbenzaldehyde, 2.19 g (54.6 mmol) of 60% sodium hydride was added to the solution in an ice bath and the resulting mixture was stirred for 10 minutes. To the mixture was added 3.59 mL (47.3 mmol) of chloro(methoxy)methane in an ice bath, and the resulting mixture was stirred at room temperature for 1 hour and 30 minutes. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The organic layers were combined, washed successively with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (Daisogel 1001W, hexane:ethyl acetate=50:1) to obtain 6.60 g (36.6 mmol, Yield: 100%) of 2-(methoxymethoxy)-3-methylbenzaldehyde.

reactant | 2-hydroxy-3-methylbenzaldehyde | 36.5 mmol, 4.96 g | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | sodium hydride | 54.6 mmol, 2.19 g | [H-].[Na+]
reactant | chloro(methoxy)methane | 47.3 mmol, 3.59 mL | ClCOC | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-(methoxymethoxy)-3-methylbenzaldehyde | 36.6 mmol, 6.60 g, Yield: 100% | COCOC1=C(C=O)C=CC=C1C | C10H12O3
